US08022206B2
1-(4-{6-Amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)-ethoxy]-furo[3,2-c]pyridin-3-yl}-3,6-dihydro-2H-pyridin-1-yl)-2,2,2-trifluoroethanone
A mixture of 7-[(R)-1-(2,6-dichloro-3-fluorophenyl)-ethoxy]-3-(1,2,3,6-tetrahydropyridin-4-yl)-furo[3,2-c]pyridin-6-ylamine (10.0 mg, 0.0237 mmol), 4-dimethylaminopyridine (0.29 mg, 0.0024 mmol), triethylamine (0.00396 mL, 0.0284 mmol) and DCM (1 mL) at 0° C. was added trifluoroacetic anhydride (5.47 mg, 0.0260 mmol), and the solution was allowed to warm to rt overnight. The material was transferred to a separatory funnel, and extracted with sat. aq. NaHCO3. The organic layer was concentrated in vacuo, then redissolved in minimal DCM/MeOH and loaded onto a preparatory TLC plate, eluting with 5% MeOH in DCM to afford the title compound as a white solid. 1H NMR (CD3OD, 400 MHz): δ=1.88 (d, J=6.8 Hz, 3H), 2.53-2.65 (m, 2H), 3.84-3.94 (m, 2H), 4.31-4.40 (m, 2H), 6.24-6.32 (m, 1H), 6.49 (q, J=6.7 Hz, 1H), 7.22 (t, J=8.6 Hz, 1H), 7.40 (dd, J=9.1, 4.8 Hz, 1H), 7.64-7.72 (m, 1H), 8.19-8.22 (m, 1H). MS (ES+): m/z 517.98 [MH+]. HPLC: tR=3.64 min (ZQ3, polar—5 min).

reactant | 7-[(R)-1-(2,6-dichloro-3-fluorophenyl)-ethoxy]-3-(1,2,3,6-tetrahydropyridin-4-yl)-furo[3,2-c]pyridin-6-ylamine | 0.0237 mmol, 10.0 mg | ClC1=C(C(=CC=C1F)Cl)[C@@H](C)OC=1C2=C(C=NC1N)C(=CO2)C=2CCNCC2 | C20H18Cl2FN3O2
reactant | triethylamine | 0.0284 mmol, 0.00396 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.0260 mmol, 5.47 mg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
catalyst | 4-dimethylaminopyridine | 0.0024 mmol, 0.29 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-{6-Amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)-ethoxy]-furo[3,2-c]pyridin-3-yl}-3,6-dihydro-2H-pyridin-1-yl)-2,2,2-trifluoroethanone | NC1=C(C2=C(C=N1)C(=CO2)C=2CCN(CC2)C(C(F)(F)F)=O)O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl | C22H17Cl2F4N3O3
